US04113464
Preparation of N-Hex-4-enyl-N-(4,4,5,5-tetramethyl-1,3-dioxolan-2-ylethyl)amine
2-Bromoethyl-4,4,5,5-tetramethyl-1,3-dioxolane (20 grams) and 4-hexenylamine (100 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is heated at a temperature of about 100° C. for a period of about 3 hours. After this time sodium hydroxide (10 grams) dissolved in water (100 ml) is added and the resulting mixture is stirred for a period of about 30 minutes. The reaction mixture is then extracted with ether. The ether extract is dried over anhydrous magnesium sulfate, filtered and stripped of solvent to yield the desired product N-hex-4-enyl-N-(4,4,5,5-tetramethyl-1,3-dioxolan-2-ylethyl)amine.

reactant | 2-Bromoethyl-4,4,5,5-tetramethyl-1,3-dioxolane | 20 grams | BrCCC1OC(C(O1)(C)C)(C)C | C9H17BrO2
reactant | 4-hexenylamine | 100 ml | C(CCC=CC)N | C6H13N
reactant | sodium hydroxide | 10 grams | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | N-hex-4-enyl-N-(4,4,5,5-tetramethyl-1,3-dioxolan-2-ylethyl)amine | C(CCC=CC)NCCC1OC(C(O1)(C)C)(C)C | C15H29NO2
